US07807709B2
N-Isopropyl-N-{(3R*,4S*)-4-[(isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzoyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-4-methoxy-3-(3-methoxy-propoxy)-benzamide
The title compound is prepared analogously as described in Example 361 by coupling N-[(3R*,4R*)-1-benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-N-isopropyl4-methoxy-3-(3-methoxy-propoxy)-benzamide and 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid in step J. MS (LC-MS): 658.3 [M+H]+; tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/2.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.20 min.

reactant | N-[(3R*,4R*)-1-benzyl-4-(isopropylamino-methyl)-pyrrolidin-3-ylmethyl]-N-isopropyl4-methoxy-3-(3-methoxy-propoxy)-benzamide | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](C1)CNC(C)C)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C31H47N3O4
reactant | 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid | COCCCOC=1C=C(C(=O)O)C=CC1OC | C12H16O5
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-Isopropyl-N-{(3R*,4S*)-4-[(isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzoyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-4-methoxy-3-(3-methoxy-propoxy)-benzamide | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@H]1CNC[C@H]1CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C36H55N3O8
